US04642313
8.3 g of N-(4-chlorobenzoyl)-(3-furylcarbonyl)methylamine, 1.5 g of 61% sodium hydride and 5.8 g of ethyl bromoacetate are treated in the same manner as described in Preparation 1-(2). 8.5 g of ethyl 3-(4-chlorobenzoylamino)-3-(3-furylcarbonyl)propionate are thereby obtained. Yield: 77.3%

reactant | N-(4-chlorobenzoyl)-(3-furylcarbonyl)methylamine | 8.3 g | ClC1=CC=C(C(=O)NCC(=O)C2=COC=C2)C=C1 | C13H10ClNO3
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | ethyl bromoacetate | 5.8 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 3-(4-chlorobenzoylamino)-3-(3-furylcarbonyl)propionate | 8.5 g, Yield: 77.3% | ClC1=CC=C(C(=O)NC(CC(=O)OCC)C(=O)C2=COC=C2)C=C1 | C17H16ClNO5
